US04501667
A solution of 11.8 parts by weight of acetamide, 16.4 parts by weight of orthophosphorus acid in 40 parts by volume of acetic anhydride are heated with stirring to 45° C. To this solution is added, portionwise, 22.2 parts by weight of glyoxylic acid hydrate over 15 minutes. The reaction temperature increases to 80° C., during the addition and this temperature is maintained by external heating for a further 3 hours. The acetic anhydride is removed by distillation, in vacuo, and the viscous residue dissolved in 100 parts by volume concentrated hydrochloric acid. This solution is heated to reflux for 4 hours, then evaporated to dryness to give a brown crystalline solid, which on dissolution in 600 parts by volume of 60% aqueous methanol, followed by addition of propylene oxide, gives 9.3 parts by weight of 2-aminophosphono-acetic acid monohydrate melting at 195° C. with decomposition and having the following elemental analysis by weight:

reactant | acetamide | C(C)(=O)N | C2H5NO
reactant | orthophosphorus acid | OP(O)O | H3O3P
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | glyoxylic acid hydrate | O.C(C=O)(=O)O
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | methanol | CO | CH4O
product | 2-aminophosphono-acetic acid monohydrate | O.NOP(=O)(O)CC(=O)O | InChI=1S/C2H6NO5P.H2O/c3-8-9(6,7)1-2(4)5;/h1,3H2,(H,4,5)(H,6,7);1H2
